US08791123B2
(R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
In a sealed tube, ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 500 mg, 2.22 mmol), (R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidine hydrochloride salt (513 mg, 2.22 mmol), and diisopropylethylamine (0.774 mL, 4.43 mmol) were combined in isopropanol (2 mL) and heated at 160° C. for 3 days. 2N NaOH (6 mL) and MeOH (5 mL) were added and the reaction mixture stirred at ambient temperature for 24 hours, followed by heating to 40° C. for 3 hours. The reaction was partially concentrated, treated with saturated aqueous NH4Cl (10 mL) and the mixture extracted with EtOAc. The combined organic extracts were filtered, concentrated and the residue purified by reverse phase chromatography eluting with 0-60% acetonitrile/water to yield the title compound as a pink solid (254 mg, 32.2% yield). MS (apci) m/z=357.0 (M+H).

reactant | ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.22 mmol, 500 mg | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | (R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidine hydrochloride salt | 2.22 mmol, 513 mg | Cl.FC=1C=CC(=C(C1)[C@@H]1NCCC1)OC
reactant | diisopropylethylamine | 4.43 mmol, 0.774 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 2N, 6 mL | [OH-].[Na+]
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | MeOH | 5 mL | CO | CH4O
product | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 254 mg, 32.2% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OC | C18H17FN4O3
